US07906501B2
Step 4. 4-Bromo-5-n-propyl-2-pyrrolaldehyde
15 g of 5-n-propyl-2-pyrrolaldehyde (0.11 moles) are dissolved in 600 mL of CCl4 under a nitrogen atmosphere. 23 g of NBS (0.13 moles) are added and the mixture is heated to 50° C. for 6 h. The succinimide is filtered out, the organic phase is washed with a saturated solution of NaHCO3, dried with Na2SO4 and evaporated. 14 g of product are obtained, which are used in the subsequent step. Formula: C8H10BrNO (m.w. 216.08). Yield 60%.

reactant | 5-n-propyl-2-pyrrolaldehyde | 0.11 moles, 15 g | C(CC)C1=CC=C(N1)C=O | C8H11NO
reactant | NBS | 0.13 moles, 23 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CCl4 | 600 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Bromo-5-n-propyl-2-pyrrolaldehyde | 14 g, Yield 60% | BrC=1C=C(NC1CCC)C=O | C8H10BrNO
